US08110681B2
A mixture of 2-methyl-5-nitrobenzoic acid (10.0 g, 55.2 mmol) in ethanol (200 ml) was cooled to 0° C. with an ice bath and thionyl chloride (16.0 mL, 220 mmol) was added dropwise over 10 min. After this time, the mixture was warmed to room temperature for 1 h, then transferred to an oil bath and heated to reflux overnight. The mixture was then cooled to room temperature and concentrated under reduced pressure. Purification by flash chromatography (silica, 9:1 hexanes/ethyl acetate) afforded ethyl 2-methyl-5-nitrobenzoate (12.4 g, quant.) as a pale yellow oil: 1H NMR (300 MHz, CDCl3) δ 8.76 (d, J=2.5 Hz, 1H), 8.24 (dd, J=8.5, 2.5 Hz, 1H), 7.43 (d, J=8.4 Hz, 1H), 4.42 (q, J=7.2 Hz, 2H), 2.72 (s, 3H), 1.44 (t, J=7.1 Hz, 3H).

reactant | 2-methyl-5-nitrobenzoic acid | 55.2 mmol, 10.0 g | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | thionyl chloride | 220 mmol, 16.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-methyl-5-nitrobenzoate | 12.4 g | CC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C10H11NO4
